US09145415B2
To a solution of tris(dibenzylideneacetone)dipalladium(0) (835 mg) and 4,5′-bis(diphenylphosphino)-9,9′-dimethylxanthene (1.06 g) in 1,4-dioxane (125 mL), 2-(5-(2-chloro-4-(pyrrolidin-1-yl)pyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione (H2, 3.60 g), 4-aminobenzonitrile (2.69 g) and cesium carbonate (8.90 g) were added at room temperature under a nitrogen atmosphere, and the mixture was stirred at 90° C. for 7 hours. The reaction mixture was cooled to room temperature, and then ethyl acetate was added to the reaction mixture. The insoluble matter was removed by filtration through Cerite, and then the solvent was evaporated under reduced pressure. To the obtained residue, water was added. The solid matter was taken by filtration, and washed with water to obtain 4-((5-(5-(1,3-dioxoisoindolin-2-yl)-1-pentyn-1-yl)-4-(pyrrolidin-1-yl)pyrimidin-2-yl)amino)benzonitrile (H3).

reactant | 2-(5-(2-chloro-4-(pyrrolidin-1-yl)pyrimidin-5-yl)-4-pentyn-1-yl)isoindoline-1,3-dione | 3.60 g | ClC1=NC=C(C(=N1)N1CCCC1)C#CCCCN1C(C2=CC=CC=C2C1=O)=O | C21H19ClN4O2
reactant | 4-aminobenzonitrile | 2.69 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | cesium carbonate | 8.90 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 125 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 835 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-((5-(5-(1,3-dioxoisoindolin-2-yl)-1-pentyn-1-yl)-4-(pyrrolidin-1-yl)pyrimidin-2-yl)amino)benzonitrile | O=C1N(C(C2=CC=CC=C12)=O)CCCC#CC=1C(=NC(=NC1)NC1=CC=C(C#N)C=C1)N1CCCC1 | C28H24N6O2
